US08895313B2
2-{4-[2-(2-Nitrophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole
To a stirred solution of diethyl 4-(6-methoxylbenzothiazol-2-yl)benzylphosphonate (0.10 g, 0.25 mmol) and 2-nitrobenzaldehyde (0.39 g, 0.25 mmol) in dry MeOH (10 ml) at 0° C. was added dropwise a solution of 0.5 M sodium methoxide (1.02 ml, 0.51 mmol). The reaction mixture was then allowed to rise to room temperature and heated under reflux for 18 h. The reaction mixture was cooled to room temperature and water (30 ml) was added followed by 1 M HCl until the reaction mixture became acidic. The reaction mixture was then extracted with DCM (3×80 ml) and the combined organic extracts washed with brine (50 ml) and dried (Na2SO4). The solvent was removed under reduced pressure to give a solid which was purified by flash chromatography (DCM) to give the title compound (0.043 g, 43%) as a yellow solid.

reactant | diethyl 4-(6-methoxylbenzothiazol-2-yl)benzylphosphonate | 0.25 mmol, 0.10 g | O(C)C1=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C=C1 | C19H22NO4PS
reactant | 2-nitrobenzaldehyde | 0.25 mmol, 0.39 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | sodium methoxide | 0.51 mmol, 0.5 M, 1.02 ml | C[O-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 2-{4-[2-(2-Nitrophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole | 0.043 g, 43% | [N+](=O)([O-])C1=C(C=CC=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C22H16N2O3S
